US04841077
A mixture of ethyl 4',5,7-trihydroxy-2-isoflavonecarboxylate (120 mg) and 28% ammonia (2 ml) was stirred at room temperature for three hours, water was distilled off under reduced pressure, and the solid residue was recrystallized from methanol, affording 65 mg of 4',5,7-trihydroxy-2-isoflavonecarboxamide.

reactant | ethyl 4',5,7-trihydroxy-2-isoflavonecarboxylate | 120 mg | OC1=CC=C(C2=C(OC3=CC(=CC(=C3C2=O)O)O)C(=O)OCC)C=C1 | C18H14O7
reactant | ammonia | 2 ml | N | H3N
product | 4',5,7-trihydroxy-2-isoflavonecarboxamide | 65 mg | OC1=CC=C(C2=C(OC3=CC(=CC(=C3C2=O)O)O)C(=O)N)C=C1 | C16H11NO6
